US05461067
A. 5-Methyl-1-((3,4,5,6-tetrahydro-2H-pyran-2-yl)oxy)-2-hexyn-4-one
The desired compound was prepared from isobutyryl chloride and 3,4,5,6-tetrahydro-2-(2-propynyloxy)-2H-pyran by analogy to the procedure of Tohda, et. al. (Synthesis, 777 (1977)).

reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
reactant | 3,4,5,6-tetrahydro-2-(2-propynyloxy)-2H-pyran | C(C#C)OC1OCCCC1 | C8H12O2
product | 5-Methyl-1-((3,4,5,6-tetrahydro-2H-pyran-2-yl)oxy)-2-hexyn-4-one | CC(C(C#CCOC1OCCCC1)=O)C | C12H18O3
